US08309542B2
(e) 5,6-dimethyl-4,5-dihydro-thieno[2,3-c]pyridinium iodide
A solution of 4.0 g (26.5 mmol) 5-methyl-4,5-dihydro-thieno[2,3-c]-pyridine in 250 ml acetonitrile is combined at RT with 16.5 ml (264.5 mmol) methyl iodide and stirred for 30 min. The precipitate formed is filtered off and washed with acetonitrile.

reactant | 5-methyl-4,5-dihydro-thieno[2,3-c]-pyridine | 26.5 mmol, 4.0 g | CC1CC2=C(C=N1)SC=C2 | C8H9NS
reactant | methyl iodide | 264.5 mmol, 16.5 ml | CI | CH3I
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 5,6-dimethyl-4,5-dihydro-thieno[2,3-c]pyridinium iodide | [I-].CC1CC2=C(C=[N+]1C)SC=C2 | InChI=1S/C9H12NS.HI/c1-7-5-8-3-4-11-9(8)6-10(7)2;/h3-4,6-7H,5H2,1-2H3;1H/q+1;/p-1
